US06639082B2
C. 2-[4-Bromo-3-(formyl)-phenyl]oxazole
A 1 L round bottom flask was charged with 2-[4-bromo-3-(dibromomethyl)-phenyl]-5-methoxy-oxazoline (27.8 g, 67.1 mmol), DBU (24.1 mL, 161.2 mmol) and morpholine (56.4 mL, 646.7 mmol). The mixture was heated at 60° C. for 2.5 hours. HPLC indicated the starting material had disappeared. The reaction mixture was cooled to −10° C. to 0° C. in an ice/acetone bath. The stirring stopped. Potassium tert-butoxide (1 M in THF, 350 mL) was added dropwise in 0.5 hours. The stirring started after ˜20 mL of potassium tert-butoxide THF solution was added. The reaction mixture was warmed up to RT and stirred at RT for 5 hours. It was put aside in a −40° C. freezer for 13 hours and then was stirred at RT for another 2 hours. The reaction mixture was cooled to −10° C. to 0° C. in an ice/acetone bath. HCl (6N, cold, 214 mL) was added dropwise in 15 minutes. The mixture was stirred at 0° C. to RT in 0.5 hours. It was transferred to a 2 L separatory funnel, diluted with EtOAc (300 mL) and water (300 mL). The aqueous layer was separated and extracted with EtOAc (300 mL×2). The organic layers were combined and the combined organic phase was washed with brine/1N HCl mixture (200 mL/30 mL ), brine/water mixture (200 mL/30 mL×2) and brine (230 mL×2). It was dried over MgSO4 (50 g) for 0.5 hours and concentrated to 21.3 g of semi solid. The crude semi solid was dissolved in warm THF (60 mL). The THF solution was added dropwise to a mixture of refluxing cyclohexane (600 mL) and charcoal (3.6 g). The mixture was stirred without heat for 0.5 hours and was heated to reflux. It was filtered through a celite pad and the pad was washed with a hot mixture of cyclohexane/THF (90 mL/9 mL×3). The filtrate was concentrated to 14.1 g of yellowish white solid. The charcoal treated crude product was dissolved in cyclohexane (300 mL) at reflux. Crystallization occurred upon cooling to RT. The mixture was stirred at RT for 4 hours and then at 4° C. for 13 hours. The 2-[4-Bromo-3-(formyl)-phenyl]oxazole was collected by filtration and was suction dried at RT for 13 h. It was obtained as an off-white solid in 72.3% yield, HPLC area percent 99.8. The 1H NMR and mass spectra were consistent with the assigned structure.

reactant | 2-[4-bromo-3-(dibromomethyl)-phenyl]-5-methoxy-oxazoline | 67.1 mmol, 27.8 g | BrC1=C(C=C(C=C1)C=1OC(CN1)OC)C(Br)Br | C11H10Br3NO2
reactant | DBU | 161.2 mmol, 24.1 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | morpholine | 646.7 mmol, 56.4 mL | N1CCOCC1 | C4H9NO
reactant | Potassium tert-butoxide | 1 M, 350 mL | CC(C)([O-])C.[K+]
reactant | HCl | 6N, 214 mL | Cl | ClH
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
solvent | water | 300 mL | O | H2O
product | 2-[4-Bromo-3-(formyl)-phenyl]oxazole | 72.3% yield | BrC1=C(C=C(C=C1)C=1OC=CN1)C=O | C10H6BrNO2
